US06777432B1
[5-(4-azido-2-hydroxy-benzoylamino)-pyridin-2-yloxy]-acetic acid methyl ester
To a mixture of (5-amino-pyridin-2-yloxy)-acetic acid methyl ester (40 mg, 0.19 mmol) and 4-azido-2-hydroxy-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester (50 mg, 0.192 mmol) in DCM (5 mL) was added DIPEA (66 μL, 0.38 mmol). The mixture was stirred for 15 h at an ambient temperature and was poured into water. The aqueous mixture was extracted with ethyl acetate (3×25 mL) and the combined extracts were washed with brine and dried over magnesium sulfate. Filtration and concentration gave a solid residue that was suspended in a small amount of ethyl acetate (3 mL) and was collected by filtration. This afforded 35.6 mg (54%) of (5-(4-azido-2-hydroxy-benzoylamino)-pyridin-2-yloxy)-acetic acid methyl ester: 1H NMR (300 MHz, acetone-d6) δ 11.78 (bs, 1H), 9.89 (s,1H), 7.90 (m, 1H), 7.54 (m, 2H), 6.51 (m, 1H), 6.27 (m, 1H), 6.20 (m, 1H), 4.44 (s, 2H) 3.19 (s, 3H); MS (EI) m/z 341.99 (M−H)−.

reactant | (5-amino-pyridin-2-yloxy)-acetic acid methyl ester | 0.19 mmol, 40 mg | COC(COC1=NC=C(C=C1)N)=O | C8H10N2O3
reactant | 4-azido-2-hydroxy-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | 0.192 mmol, 50 mg | O=C1N(C(CC1)=O)OC(C1=C(C=C(C=C1)N=[N+]=[N-])O)=O | C11H8N4O5
reactant | DIPEA | 0.38 mmol, 66 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | [5-(4-azido-2-hydroxy-benzoylamino)-pyridin-2-yloxy]-acetic acid methyl ester | COC(COC1=NC=C(C=C1)NC(C1=C(C=C(C=C1)N=[N+]=[N-])O)=O)=O | C15H13N5O5
